US07223764B2
To a solution of 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine (7.40 g, 32.13 mmol) in THF (100 mL), while stirring in an ice-bath, triethylamine (4.36 g, 43.09 mmol), 4-dimethylaminopyridine (200 mg, 1.64 mmol), and methanesulfonyl chloride (7.40 g, 38.76 mmol) were sequentially added. The temperature of the mixture was allowed to room temperature, and the mixture was stirred for 50 minutes. The reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. The residue was dissolved in DMF (200 mL), and, at room temperature, 5,6-difluoro-2-mercaptobenzimidazole (5.00 g, 26.86 mmol), potassium carbonate (8.64 g, 62.51 mmol), and 18-crown-6 (500 mg, 1.92 mmol) were sequentially added to the solution, followed by stirring for 90 minutes at 80° C. The reaction mixture was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (silica gel 200 g, hexane: acetone=8:1 to 1:1). The product was crystallized from acetone-ether-hexane, to thereby yield 1-tert-butoxycarbonyl-4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazine (7.26 g, yield 68%) as colorless crystals.

reactant | 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine | 32.13 mmol, 7.40 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
reactant | triethylamine | 43.09 mmol, 4.36 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 38.76 mmol, 7.40 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5,6-difluoro-2-mercaptobenzimidazole | 26.86 mmol, 5.00 g | FC1=CC2=C(N=C(N2)S)C=C1F | C7H4F2N2S
reactant | potassium carbonate | 62.51 mmol, 8.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 1.92 mmol, 500 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.64 mmol, 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-tert-butoxycarbonyl-4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazine | 7.26 g, yield 68% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCSC=1NC2=C(N1)C=C(C(=C2)F)F | C18H24F2N4O2S
